US04960432
Preparation of 2,4-diamino-1,3-diethoxybenzene hydrochloride
The mixture consisting of 7.7 g of ammonium acetate, 3.8 g of 10% palladium on charcoal, 0.025 mole (7.6 g) of 2,4-diethoxy-3,5-diaminochlorobenzene hydrochloride in 42 ml of ethanol containing 5 ml of water was heated to 70° C. with stirring. 7.5 g of triethylamine were added and then, 3.1 g of formic acid were added dropwise. After 20 additional minutes of heating at 80° C., the reaction mixture was filtered while hot. The filtrate was evaporated to dryness. Upon addition of ethyl acetate, the inorganic salts were precipitated and removed by filtration. 10 ml of a 7N alcoholic solution of hydrochloric acid were added to the filtrate which was dried over sodium sulphate. The expected product precipitated; it was recrystallized from a 6N hydrochloric acid solution.

reactant | ammonium acetate | 7.7 g | C(C)(=O)[O-].[NH4+]
reactant | 2,4-diethoxy-3,5-diaminochlorobenzene hydrochloride | 0.025 mole, 7.6 g | Cl.C(C)OC1=C(C=C(C(=C1N)OCC)N)Cl
reactant | water | O | H2O
reactant | triethylamine | 7.5 g | C(C)N(CC)CC | C6H15N
catalyst | palladium on charcoal | 3.8 g | [Pd] | Pd
solvent | ethanol | 42 ml | C(C)O | C2H6O
solvent | formic acid | 3.1 g | C(=O)O | CH2O2
product | 2,4-diamino-1,3-diethoxybenzene hydrochloride | Cl.NC1=C(C=CC(=C1OCC)N)OCC | InChI=1S/C10H16N2O2.ClH/c1-3-13-8-6-5-7(11)10(9(8)12)14-4-2;/h5-6H,3-4,11-12H2,1-2H3;1H
